US04262032
L-Glucose
A solution of 5 grams of 1-deoxy-1-nitro-L-glucitol dissolved in 15 ml. of 2 N sodium hydroxide was added dropwise to a stirred solution of 7.5 ml. of sulfuric acid in 9 ml. of water at room temperature. After dilution with 200 ml. of water, the solution was neutralized to Congo red indicator with warm barium hydroxide solution and the remaining sulfate ion precipitated with barium acetate solution. The barium sulfate was removed by filtration and the filtrate de-ionized by passage through 50 ml. of Dowex-50(H+) resin. The effluent and washings were concentrated at reduced pressure to a syrup. This syrup was diluted with a few drops of ethanol and allowed to crystallize. The resulting β-L-glucose was filtered with the aid of ethanol; yield 2.5 grams, mp 146°-147° C.

reactant | 1-deoxy-1-nitro-L-glucitol | 5 grams | [N+](=O)([O-])C[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H13NO7
reactant | sodium hydroxide | 2 N | [OH-].[Na+]
reactant | sulfuric acid | S(O)(O)(=O)=O | H2O4S
reactant | barium hydroxide | [OH-].[Ba+2].[OH-]
solvent | water | O | H2O
product | L-Glucose | O=C[C@@H](O)[C@H](O)[C@@H](O)[C@@H](O)CO | C6H12O6
